US09260408B2
(S)-3-(5-Bromo-pyridin-3-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the preparation of intermediate A-7, 5-bromopyridin-3-ol was reacted with (R)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester in presence of di-(4-chlorobenzyl)azodicarboxylate and triphenylphosphine to give the title compound as a colorless oil. MS: 343.1 and 345.1 (M+H+).

reactant | 5-bromopyridin-3-ol | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | (R)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | di-(4-chlorobenzyl)azodicarboxylate | C1=CC(=CC=C1COC(=O)/N=N\C(=O)OCC2=CC=C(C=C2)Cl)Cl | C16H12Cl2N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (S)-3-(5-Bromo-pyridin-3-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC=1C=NC=C(C1)Br | C14H19BrN2O3
